US04113731
To a solution of 2.59 g (0.01 mole) of 2-amino-1-methyl-3-phenylindole in 15 ml of pyridine, 2.84 g (0.026 mole) of ethylchlorocarbonate is added. The reaction mixture is heated to 75° C. for about 2 hours, allowed to cool and 2.84 g more of ethylchlorocarbonate is added. The reaction mixture, heated for a further 3 hours, is then poured into about 200 ml of aqueous 10% HCl solution, the product is extracted with ethyl ether and the organic layer washed with water. The resulting etheral solution, dried over sodium sulfate, is concentrated to a volume of about 30 ml, 20 ml of hexane is added and the solution is once again concentrated to 35 ml. The product, 2.3 g of 1-methyl-3-phenylindole-2-carbamic acid ethyl ester, is thus crystallized; (m.p. 159°-161° C.; yield 80%). A quantity of 1.4 g of the so obtained carbamate is heated to 270° C. for 15 minutes and the residue crystallized from dimethylformamide, yielding 1.15 g of 7-methylindolo[2,3-c]isoquinolin-5(6H)-one. M.p. 350° C. (with decomposition). Yield 95%.

reactant | 2-amino-1-methyl-3-phenylindole | 0.01 mole, 2.59 g | NC=1N(C2=CC=CC=C2C1C1=CC=CC=C1)C | C15H14N2
reactant | ethylchlorocarbonate | 0.026 mole, 2.84 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | HCl | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 7-methylindolo[2,3-c]isoquinolin-5(6H)-one | 1.15 g, yield 80% | CN1C=2C=CC=CC2C2=C1NC(C1=CC=CC=C21)=O | C16H12N2O
